US07442797B2
A tetrahydrofuran solution of 3-methoxyphenyl magnesium bromide (52.4 ml, 1.0 M, 52.4 mmol) was dropwise added to a mixture of 2-bromopyridine (5.0 ml, 52.4 mmol), 1,3-bis(diphenylphosphino)propane nickel (II) chloride (284 mg) and diethyl ether (100 ml) at room temperature while 1 hour. Thereafter, this reaction mixture was poured into an aqueous ammonium chloride solution, the mixture was extracted with toluene, the solvent was distilled off, and the residue was purified by silica gel column chromatography, thereby obtaining 9.4 g of 2-(3-methoxyphenyl)pyridine as colorless oil.

reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 3-methoxyphenyl magnesium bromide | 52.4 mmol, 1.0 M, 52.4 ml | COC=1C=C(C=CC1)[Mg]Br
reactant | 2-bromopyridine | 52.4 mmol, 5.0 ml | BrC1=NC=CC=C1 | C5H4BrN
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | 1,3-bis(diphenylphosphino)propane nickel (II) chloride | 284 mg | [Ni](Cl)Cl.C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 2-(3-methoxyphenyl)pyridine | 9.4 g | COC=1C=C(C=CC1)C1=NC=CC=C1 | C12H11NO
